US05648338
(f) Diphenyl 1-(N-allyl)amino-4-Pyridylmethyl-phosphonate
To a solution of 4-pyridinecarboxyaldehyde (1.07 g, 10 mmol) and allylamine (0.61 g, 10 mmol) in ether (30 ml) was added anhydrous sodium carbonate (2.76 g). The solution was stirred at r.t. overnight, then sodium carbonate was filtered off. To the reaction mixture, diphenylphosphite (2.34 g, 10 mmol) and triethylamine (1.01 g, 10 mmol) were added with cooling over an ice-water bath. It was stirred at r.t. overnight. After removal of the solvent an oily residue was obtained which was chromatographed (1:1 Petroleum ether/ethyl acetate) to give 2.85 g (65%) as an oil.

reactant | allylamine | 10 mmol, 0.61 g | C(C=C)N | C3H7N
reactant | sodium carbonate | 2.76 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diphenylphosphite | 10 mmol, 2.34 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)[O-]
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | ether | 30 ml | CCOCC | C4H10O
product | Diphenyl 1-(N-allyl)amino-4-Pyridylmethyl-phosphonate | C(C=C)NN1CC=C(C=C1)CP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C21H23N2O3P
